US04698394
A solution of 4-chloromethylbenzocyclobutene (24.4 g, 160 mmol) and triphenylphosphine (41.9 g, 160 mmol) in 120 ml of chloroform was heated at reflux for 24 h. Addition of diethyl ether followed by filtration gave tripheny(4-benzocyclobutenyl)methyl phosphonium chloride as a white powder: 1H NMR (CDCl3) δ3.03 (m, 4H), 5.36 (d, 2H), 6.82 (m, 3H), 7.6-7.8 (m, 15H). To a solution of the phosphonium salt in 500 ml of 37% formaldehyde in water was added dropwise 75 ml of 50% aqueous sodium hydroxide. The mixture was stirred at ambient temperature for 2 h and then extracted with diethyl ether. The ether extract was washed with brine and dried over magnesium sulfate. Fractional distillation gave 14.5 g of 90% pure 4-vinylbenzocyclobutene: bp 63°-66° C. (6 torr); 1H NMR (CDCl3) δ3.11 (s, 4H), 5.11 (d, 1H), 5.63 (d, 1H), 6.66 (dd, 1H), 6.95 (d, 1H), 7.10 (s, 1H), 7.18 (d, 1H); 13C NMR (CDCl3) δ29.29, 29.44, 112.27, 119.87, 122.52, 125.70, 136.72, 137.97, 146.66. 146.01.

reactant | 4-chloromethylbenzocyclobutene | 160 mmol, 24.4 g | ClCC1=C2C(CC2)=CC=C1 | C9H9Cl
reactant | triphenylphosphine | 160 mmol, 41.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | tripheny(4-benzocyclobutenyl)methyl phosphonium chloride | [Cl-].C1(=CC=CC=C1)[P+](CC1=CC2=C(C=C2)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H22P.ClH/c1-4-10-25(11-5-1)28(26-12-6-2-7-13-26,27-14-8-3-9-15-27)21-22-16-17-23-18-19-24(23)20-22;/h1-20H,21H2;1H/q+1;/p-1
